US07495007B2
To a solution of 5-iodovanillin (10 g, 35.9 mmol) (Aldrich) in N,N-dimethylformamide (150 mL) was added anhydrous K2CO3 (14.9 g, 108 mmol), and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (10.3 g, 43 mmol, Aldrich). The reaction mixture was heated at 60° C. for 18 h. The crude was cooled to room temperature, diluted with ethyl acetate, washed with water, brine. The organic layer was separated, dried over MgSO4, concentrated, and purified by chromatography to give 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-3-methoxy-benzaldehyde as a yellow oil (Yield 15 g, 96%).

reactant | 5-iodovanillin | 35.9 mmol, 10 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | K2CO3 | 108 mmol, 14.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 43 mmol, 10.3 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-3-methoxy-benzaldehyde | Yield 15 g, 96% | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1OC)I)(C)C | C16H25IO4Si
